US07858640B2
3-(4-chlorobenzyl)hexane-2,4-dione
A solution of hexane-2,4-dione (5.7 g) in N,N-dimethylformamide (20 mL) was added dropwise over a period of 15 minutes to a stirred suspension of sodium hydride (60% in oil, 2.2 g) in N,N-dimethylformamide (60 mL) at −5° C. The mixture was stirred a room temperature for 30 minutes and then a solution of 1-bromomethyl-4-chlorobenzene (11 g) in N,N-dimethylformamide (20 mL) was added dropwise over a period of 20 minutes. The resulting mixture Was stirred at room temperature for 17 hours and then diluted with 1.0 M aqueous hydrochloric acid (100 mL). The mixture was extracted with diethyl ether and the combined extracts, washed with 1.0 M aqueous hydrochloric acid and saturated aqueous sodium chloride solution and then dried over magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of pentane and toluene (1:1 to 1:2 to 0:1 by volume) gave title compound (55:45 mixture of keto-enol tautomers) as a white solid, 2.6 g.

reactant | hexane-2,4-dione | 5.7 g | CC(CC(CC)=O)=O | C6H10O2
reactant | sodium hydride | 2.2 g | [H-].[Na+]
reactant | 1-bromomethyl-4-chlorobenzene | 11 g | BrCC1=CC=C(C=C1)Cl | C7H6BrCl
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 1.0 M, 100 mL | Cl | ClH
product | 3-(4-chlorobenzyl)hexane-2,4-dione | ClC1=CC=C(CC(C(C)=O)C(CC)=O)C=C1 | C13H15ClO2
